US07989444B2
Preparation 84: 1,1-dimethylethyl 1-hydroxy-2-(1-methylethyl)-3-oxo-2,3,5,6,8,9-hexahydroazepino[4,5-f]isoindole-7(1-H)-carboxylate
To a solution of 1,1-dimethylethyl 7-{[(1-methylethyl)amino]carbonyl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (0.95 g, 1 eq) in THF (50 ml), cooled to −78° C. under nitrogen atmosphere, t-BuLi (1.7 M pentane solution, 3.7 ml) was added over a 20 min period, then the mixture was allowed to warm to −40° C. and stirred for 1 h at that temperature. Anhydrous DMF (0.27 ml) was added dropwise, then the mixture was allowed to warm to room temperature and quenched with a saturated aqueous solution of NH4Cl (5 ml). After removal of THF, the residue was dissolved in ethyl acetate and the solution washed with 1 N HCl, 5% aqueous NaHCO3 and brine, then dried over Na2SO4 and concentrated to afford a white solid (1.0 g, 97% yield).

reactant | 1,1-dimethylethyl 7-{[(1-methylethyl)amino]carbonyl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.95 g, 1 eq | CC(C)NC(=O)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C19H28N2O3
reactant | t-BuLi | 1.7 M, 3.7 ml | [Li]C(C)(C)C
reactant | DMF | 0.27 ml | CN(C)C=O | C3H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 1-hydroxy-2-(1-methylethyl)-3-oxo-2,3,5,6,8,9-hexahydroazepino[4,5-f]isoindole-7(1-H)-carboxylate | 1.0 g, 97% yield | OC1N(C(C=2C=C3C(=CC12)CCN(CC3)C(=O)OC(C)(C)C)=O)C(C)C | C20H28N2O4
